US03975388
a. Ethyl 3-(o-hydroxybenzoyl)propionate
A solution of 3-(o-hydroxybenzoyl)propionic acid (18.8 g.) in ethanol (120 ml.) was treated with concentrated sulphuric acid (1 ml.) and the mixture heated at reflux temperature for 12 hours. It was cooled, poured into ice-water (350 ml.) and the oily solid isolated with chloroform. It (18.6 g.) was purified by distillation at reduced pressure and had bp 112°-113°C at 0.1 mm; nD24.5 = 1.5301.

reactant | 3-(o-hydroxybenzoyl)propionic acid | 18.8 g | OC1=C(C(=O)CCC(=O)O)C=CC=C1 | C10H10O4
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethanol | 120 ml | C(C)O | C2H6O
product | Ethyl 3-(o-hydroxybenzoyl)propionate | OC1=C(C(=O)CCC(=O)OCC)C=CC=C1 | C12H14O4
